US06933299B1
3-(5-{4-[4-(Benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoic acid
Prepared according to Procedure H utilizing ethyl 3-(5-{4-[4-(benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoate (0.65 g) and aqueous sodium hydroxide (2M, 4 mL) in THF (8 mL) and ethanol (4 mL) to afford the title compound (0.63 g). Electrospray MS m/z 498 (MH+).

reactant | ethyl 3-(5-{4-[4-(benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoate | 0.65 g | C(C1=CC=CC=C1)OC1=C(C=C(NC2=NC=NC3=CC=C(C=C23)C2=CC=C(O2)C=CC(=O)OCC)C=C1)Cl | C30H24ClN3O4
reactant | sodium hydroxide | 2M, 4 mL | [OH-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-(5-{4-[4-(Benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoic acid | 0.63 g | C(C1=CC=CC=C1)OC1=C(C=C(NC2=NC=NC3=CC=C(C=C23)C2=CC=C(O2)C=CC(=O)O)C=C1)Cl | C28H20ClN3O4
